US06080773
To a solution of 3.0 g of 2-(benzo[b]furan-2-yl)-benzaldehyde in 60 ml of tetrahydrofuran, cooled at 0° C. under a nitrogen atmosphere, was added 16.2 ml of a 1 M solution of lithium bis(trimethylsilyl)amine in hexane. After stirring at 0° C. for 20 min 16.2 ml of a 1 M solution of allylmagnesium bromide in tetrahydrofuran was added and the resulting solution stirred at 0° C. for 40 min, then allowed to warm to room temperature over 1 h. Saturated aqueous ammonium chloride was added and the mixture was extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and evaporated to dryness under reduced pressure to give a brown oil. The compound was purified by chromatography on silica gel, eluting with 5% methanol in dichloromethane. The pure compound was dissolved in methanol and converted to its hydrochloride salt by addition of a solution of hydrogen chloride in methanol and crystallisation was initiated by addition of diethyl ether. The crystallised salt was filtered affording 2.4 g of 2-(benzo[b]furan-2-yl)-a-2-propenyl-benzenemethanamine hydrochloride, melting at 225-227° C.

reactant | 2-(benzo[b]furan-2-yl)-benzaldehyde | 3.0 g | O1C2=C(C=C1C1=C(C=O)C=CC=C1)C=CC=C2 | C15H10O2
reactant | lithium bis(trimethylsilyl)amine | C[Si](C)(C)N[Si](C)(C)C.[Li]
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(benzo[b]furan-2-yl)-a-2-propenyl-benzenemethanamine hydrochloride | 2.4 g | Cl.O1C2=C(C=C1C1=C(C=CC=C1)C(N)CC=C)C=CC=C2 | InChI=1S/C18H17NO.ClH/c1-2-7-16(19)14-9-4-5-10-15(14)18-12-13-8-3-6-11-17(13)20-18;/h2-6,8-12,16H,1,7,19H2;1H
